US08686005B2
2-{6-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-4-oxo-1,2,3,4-tetrahydro-pyrimidin-5-yl}-6-(1-methyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-6-oxo-1,6-dihydro-pyrimidin-5-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione (60.1 mg, 0.105 mmol) was mixed with zinc dust (300 mg) in AcOH (12 mL) resulting a mixture which was heated at 90° C. for 1 h, then cooled to the room temperature and filtered. The filtrate was evaporated, the residue was basified with NH3 in EtOH (2 M) and purified by chromatography with CH2Cl2/MeOH/28% aqueous NH4OH (60:10:1) to furnish a fluorescent product which was subjected to HPLC purification to afford the title compound in TFA salt form (42 mg, 60%). 1H NMR (DMSO-d6) δ 1.90-2.15 (4H), 2.13 (s, 3H, CH3), 2.20 (s, 3H, CH3), 2.81 (s, 3H, CH3), 3.20 (m, 2H), 3.40-3.60 (4H), 3.97 (m, 2H), 4.13 (m, 1H), 4.31 (m, 1H), 4.40 (s, 2H), 4.46 (s, 2H), 6.83 (d, J=6 Hz, 1H), 6.93 (d, J=6 Hz, 1H), 6.96 (s, 1H), 7.53 (br s, 1H), 7.75 (s, 1H), 9.75 (br s, 1H); ESI-MS m/z 560.5 (MH+).

reactant | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-6-oxo-1,6-dihydro-pyrimidin-5-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 0.105 mmol, 60.1 mg | CC1=C(OC[C@@H](CNC=2N=CNC(C2C=2NC3=CC=4C(N(C(C4C=C3N2)=O)C2CCN(CC2)C)=O)=O)O)C=CC(=C1)C | C30H33N7O5
solvent | AcOH | 12 mL | CC(=O)O | C2H4O2
catalyst | zinc | 300 mg | [Zn] | Zn
product | 2-{6-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-4-oxo-1,2,3,4-tetrahydro-pyrimidin-5-yl}-6-(1-methyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | CC1=C(OC[C@@H](CNC2=C(C(NCN2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCN(CC2)C)O)C=CC(=C1)C | C30H37N7O4
